US04044049
A solution of 3.0 grams of 2-hydroxy-5-(4'-fluorophenyl)-benzoic acid in 12 ml. of pyridine and 8 ml. of acetic anhydride is heated on a steam bath for 20 minutes. The mixture is then poured onto ice and the product extracted with methylene chloride. The methylene chloride solution is dried and then evaporated. The residue is recrystallized from benzene to yield 2-acetoxy 5-(4'-fluorophenyl)-benzoic acid (m.p. 134° - 137° C.).

reactant | 2-hydroxy-5-(4'-fluorophenyl)-benzoic acid | 3.0 grams | OC1=C(C(=O)O)C=C(C=C1)C1=CC=C(C=C1)F | C13H9FO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-acetoxy 5-(4'-fluorophenyl)-benzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)C1=CC=C(C=C1)F | C15H11FO4
